US06133460
A mixture of 4-chloromethyl-7-hydroxy-8-methylcoumarin (2.00 g, 8.90 mmol) and sodium methoxide (12.0 g, 222 mmol) in methanol (400 mL) was refluxed overnight. The solution was allowed to cool to room temperature, acidified to pH 0-1 with 5-6N HCl in isopropanol and evaporated. The residue was azeotroped with toluene several times to give crude product 7-hydroxy-4-methoxymethyl-8-methylcoumarin, a yellow oil. 1H NMR (CD3OD): δ 7.38 (d, J=8.5 Hz, 1H), 6.82 (d, J=8.8 Hz, 1H), 6.29 (s, 1H), 4.66 (s, 2H), 3.51 (s, 3H), 2.26 (s, 3H).

reactant | 4-chloromethyl-7-hydroxy-8-methylcoumarin | 8.90 mmol, 2.00 g | ClCC1=CC(OC2=C(C(=CC=C12)O)C)=O | C11H9ClO3
reactant | sodium methoxide | 222 mmol, 12.0 g | C[O-].[Na+]
reactant | HCl | 5-6N | Cl | ClH
solvent | methanol | 400 mL | CO | CH4O
solvent | isopropanol | C(C)(C)O | C3H8O
product | 7-hydroxy-4-methoxymethyl-8-methylcoumarin | OC1=CC=C2C(=CC(OC2=C1C)=O)COC | C12H12O4
